### PR TITLE
chore: refactor after change of definition of FiniteAdeleRing to a def

### PR DESCRIPTION
**Pull request by kbuzzard**
In preparation for when https://github.com/leanprover-community/mathlib4/pull/32277 lands

### CODE REVIEW

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 1]
```diff
@@ -242,11 +242,14 @@ lemma FiniteAdeleRing.baseChangeLinearEquiv_tmul (b : B) (x : FiniteAdeleRing A
...
+  simp only [baseChangeLinearEquiv, LinearEquiv.extendScalarsOfIsLocalization_apply,
+    LinearEquiv.trans_apply, tensorEquivTensor_tmul, LinearEquiv.restrictScalars_apply,
+    restrictedProduct_prod_equiv_apply,
     restrictedProduct_tensorProduct_equiv_restrictedProduct_prod_apply,
     tensorEquivRestrictedProduct_tmul, adicCompletionComapIntegerLinearEquiv_tmul_apply,
-    BaseChange.algebraMap_apply, IsScalarTower.algebraMap_apply B L (FiniteAdeleRing B L),
-    IsScalarTower.algebraMap_apply B L (w.adicCompletion L), -Submodule.coe_pi]
+    IsScalarTower.algebraMap_apply B L (w.adicCompletion L),
+    IsScalarTower.algebraMap_apply B L (FiniteAdeleRing B L), mul_apply, algebraMap_apply]
+  rfl
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:252]: We're missing a lemma

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 2]
```diff
@@ -264,8 +267,9 @@ theorem FiniteAdeleRing.baseChange_bijective :
   apply IsLocalization.tensorProduct_ext (nonZeroDivisors A) B
   intro b x
   ext w
-  simp [SemialgHom.baseChange_of_algebraMap_tmul, mapSemialgHom_apply, BaseChange.algebraMap_apply,
-    IsScalarTower.algebraMap_apply B L (FiniteAdeleRing B L)]
+  simp [SemialgHom.baseChange_of_algebraMap_tmul,
+    IsScalarTower.algebraMap_apply B L (FiniteAdeleRing B L), -mul_eq_mul_left_iff]
+  rfl
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:272]: We're missing a lemma

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 3]
```diff
@@ -347,6 +359,7 @@ lemma FiniteAdeleRing.restrictedProduct_pi_isModuleTopology : IsModuleTopology (
       piAdicIntegerSubmodule A K L B v]) := by
   have :=
     Module.Finite.equiv (FiniteAdeleRing.restrictedProduct_pi_equiv A K L B).symm.toLinearEquiv
+  unfold FiniteAdeleRing at this
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:362]: could do better here

File: FLT/NumberField/AdeleRing.lean [hunk 4]
```diff
@@ -395,7 +395,8 @@ def padicEquiv : FiniteAdeleRing (𝓞 ℚ) ℚ ≃ₐ[ℚ] Πʳ (p : Nat.Primes
     ext p
     obtain ⟨v, rfl⟩ := ratEquiv.surjective p
     change _ = algebraMap ℚ ℚ_[v.natGenerator] q
-    simp
+    simp [FiniteAdeleRing]
+    sorry
```
Comment (kbuzzard) [inline FLT/NumberField/AdeleRing.lean:399]: needs fixing

File: FLT/NumberField/FiniteAdeleRing.lean [hunk 5]
```diff
@@ -27,6 +27,11 @@ instance : LocallyCompactSpace (FiniteAdeleRing (𝓞 K) K) := by
   haveI : Fact (∀ (i : HeightOneSpectrum (𝓞 K)),
       IsOpen (adicCompletionIntegers K i : Set (adicCompletion K i))) :=
     .mk fun v ↦ isOpenAdicCompletionIntegers K v
+  unfold FiniteAdeleRing
   infer_instance
 
+instance : CompactSpace (IsDedekindDomain.FiniteAdeleRing.integralAdeles (𝓞 K) K) := by
+    unfold IsDedekindDomain.FiniteAdeleRing.integralAdeles
+    sorry
```
Comment (kbuzzard) [inline FLT/NumberField/FiniteAdeleRing.lean:35]: needs fixing

File: lakefile.toml [hunk 6]
```diff
@@ -16,6 +16,7 @@ warn.sorry = false
 [[require]]
 name = "mathlib"
 git = "https://github.com/leanprover-community/mathlib4.git"
+rev = "cb7eb9ee3cf1e2af1531c5ffa5c59e13c2476dfc"
```
Comment (kbuzzard) [inline lakefile.toml:19]: this is the commit for my PR making FiniteAdeleRing a def not an abbrev
